US04029718
Graft of Polypivalolacetone of Ethylene/Propylene/Hexadiene-Maleic Anhydride Addition Product
A sample (57.5 g; 1.67× 10-2 mole of carboxyl) of the addition product was dissolved in 1 liter of THF and to this solution was added 6.3 ml (5.0× 10-3 mole) of a 0.79 molar solution of tetrabutyl ammonium hydroxide in methanol. The mixture was stirred and heated to 60° C. and then 17.0 g (0.17 mole) of PVL was added. The mixture was heated at 60° C. for 21/4 hours and then acidified with 1 ml (ca. 1.2 1.2× 10-2 mole) of concentrated hydrochloric acid while still hot. The product was isolated by precipitation in 2.51. of water and then boiled in methanol. Infrared analysis indicated that the dried product contained 19.5 wt. % polyPVL. By calorimetric analysis, the product had a crystalline melting point at 173° C.

reactant | tetrabutyl ammonium hydroxide | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | hydrochloric acid | 1.2× 10-2 mole, 1 ml | Cl | ClH
reactant | water | O | H2O
reactant | THF | 1 liter | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
product | Ethylene/Propylene Hexadiene Maleic Anhydride | C=C.C=CC.C=CC=CCC.C1(\C=C/C(=O)O1)=O | InChI=1S/C6H10.C4H2O3.C3H6.C2H4/c1-3-5-6-4-2;5-3-1-2-4(6)7-3;1-3-2;1-2/h3,5-6H,1,4H2,2H3;1-2H;3H,1H2,2H3;1-2H2
